US08115016B2
0.5 g (3R,5S)-5-biphenyl-4-ylmethyl-1-(2,2-dimethylpropionyl)-3-methylpyrrolidin-2-one, 5 ml ethanol and 0.3 ml perchloric acid were heated at about 80-120° C. for about 24 hours. The mixture was evaporated to dryness to obtain (2R,4S)-4-amino-5-biphenyl-4-yl-2-methylpentanoic acid ethyl ester (perchlorate salt). 1H NMR (CDCl3): 1.17 (3H), 1.20 (3H), 1.98 (2H), 2.76 (1H), 2.96 (1H), 3.29 (1H), 3.82 (1H), 3.96 (2H), 7.32-7.59 (13H), 8.21 (3H).

reactant | (3R,5S)-5-biphenyl-4-ylmethyl-1-(2,2-dimethylpropionyl)-3-methylpyrrolidin-2-one | 0.5 g | C1(=CC=C(C=C1)C[C@@H]1C[C@H](C(N1C(C(C)(C)C)=O)=O)C)C1=CC=CC=C1 | C23H27NO2
reactant | perchloric acid | 0.3 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (2R,4S)-4-amino-5-biphenyl-4-yl-2-methylpentanoic acid ethyl ester | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)C)=O | C20H25NO2
